US04219657
(C) 7-dimethylaminodibenzothiophene-3carboxylic acid potassium salt
To a solution of 0.5 g. of potassium hydroxide in 100 ml. of ethanol was added 2.8 g. of 7-dimethylaminodibenzothiophene-3-carboxylic acid ethyl ester. The solution was stirred and refluxed for 3 hours during which time the potassium salt precipitated. The salt was filtered off, washed with ether and air dried. The yield of 7-dimethylaminodibenzothiophene-3-carboxylic acid potassium salt was 1.9 g.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-dimethylaminodibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC2=C(SC3=C2C=CC(=C3)N(C)C)C1 | C17H17NO2S
reactant | potassium | [K] | K
solvent | ethanol | C(C)O | C2H6O
product | 7-dimethylaminodibenzothiophene-3carboxylic acid potassium salt | [K+].CN(C1=CC2=C(C3=C(S2)C=C(C=C3)C(=O)[O-])C=C1)C | InChI=1S/C15H13NO2S.K/c1-16(2)10-4-6-12-11-5-3-9(15(17)18)7-13(11)19-14(12)8-10;/h3-8H,1-2H3,(H,17,18);/q;+1/p-1
